US06867198B2
3-(1H-Indol-3-yl)-4-(5-oxo-4,5-dihydro-3H-5-thia-2a-aza-acenaphthylen-1-yl)pyrrole-2,5-dione
To a solution of 3-(3,4-Dihydro-5-thia-2a-aza-acenaphthylen-1-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione (0.50 g, 1.3 mmol) in dichloromethane was added meta-chloroperbenzoic acid (0.224 g, 1.3 mmol) at 0° C. The reaction mixture was stirred for 24 hours at room temperature and a saturated solution of sodium bisulfite and sodium bicarbonate (20 mL) was added. The mixture was extracted with ethyl acetate (2×20 mL). The organic layer was subjected to silica gel chromatography, eluting with ethyl acetate/hexanes (1:1). Fractions containing product were combined and concentrated under reduced pressure to provide 0.168 g (32.3%).of the title compound.

reactant | 3-(3,4-Dihydro-5-thia-2a-aza-acenaphthylen-1-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione | 1.3 mmol, 0.50 g | C1(=CN2CCSC3=CC=CC1=C23)C=2C(NC(C2C2=CNC3=CC=CC=C23)=O)=O | C22H15N3O2S
reactant | meta-chloroperbenzoic acid | 1.3 mmol, 0.224 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(1H-Indol-3-yl)-4-(5-oxo-4,5-dihydro-3H-5-thia-2a-aza-acenaphthylen-1-yl)pyrrole-2,5-dione | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN2CCS(C3=CC=CC1=C23)=O)=O)=O | C22H15N3O3S
